US07951803B2
To a solution of 0.1 g (0.48 mmol, 1.0 eq.) of tert-butyl 4-hydroxyphenylcarbamate in 5 mL of p-dioxane was added 0.13 g (0.72 mmol, 1.5 eq.) of 4-(2-chloroethyl)morpholine and 0.47 g (1.43 mmol, 3.0 eq.) cesium carbonate. The suspension was heated at 90° C. for 16 h. The reaction mixture was allowed to cool to room temperature and filtered. The solvent was removed in vacuo to provide tert-butyl 4-(2-morpholinoethoxy)phenylcarbamate (I-19), which was redissolved in 30% v/v TFA/methylene chloride and the resulting mixture was stirred at room temperature for 1 h. The solvent was removed in vacuo, and the residue was redissolved in methylene chloride. The organic solution was washed with sat. NaHCO3, dried (Na2SO4) and the solvent was removed in vacuo to provide 95 mg (0.43 mmol, 95%) of (4-(2-morpholinoethoxy)-benzenamine (I-20).

reactant | tert-butyl 4-hydroxyphenylcarbamate | 0.48 mmol, 0.1 g, 1.0 eq. | OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H15NO3
reactant | 4-(2-chloroethyl)morpholine | 0.72 mmol, 0.13 g, 1.5 eq. | ClCCN1CCOCC1 | C6H12ClNO
reactant | cesium carbonate | 1.43 mmol, 0.47 g, 3.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | p-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-morpholinoethoxy)phenylcarbamate | O1CCN(CC1)CCOC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C17H26N2O4
